US06569411B2
a) 2-Benzyloxycarbonylamino-3-(1,5,7-trimethyl-octyloxycarbonyloxy)-propionic acid benzyl ester
To a mixture of 10 g 2-benzyloxycarbonylamino-3-hydroxy-propionic acid benzyl ester [C. G. Skinner, T. J. McCord, J. M. Ravel, W. Shive, J. Am. Chem. Soc., 78, 1956, 2412] and 10 g 6,8-dimethyl-non-2-yl chloroformate in 80 ml of THF was added a solution of 3.4 ml of pyridine in 40 ml THF at 0° C. The reaction mixture was stirred for 25 h at rt, diluted with ether and washed with 2N hydrochloric acid, saturated sodium bicarbonate and brine. The organic phase was dried and evaporated to dryness. The resulting oil was purified by chromatography on silica gel to yield 14.3 g of a colorless liquid.

reactant | 2-benzyloxycarbonylamino-3-hydroxy-propionic acid benzyl ester | 10 g | C(C1=CC=CC=C1)OC(C(CO)NC(=O)OCC1=CC=CC=C1)=O | C18H19NO5
reactant | 6,8-dimethyl-non-2-yl chloroformate | 10 g | ClC(=O)OC(C)CCCC(CC(C)C)C | C12H23ClO2
reactant | pyridine | 3.4 ml | N1=CC=CC=C1 | C5H5N
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-Benzyloxycarbonylamino-3-(1,5,7-trimethyl-octyloxycarbonyloxy)-propionic acid benzyl ester | 14.3 g | C(C1=CC=CC=C1)OC(C(COC(=O)OC(CCCC(CC(C)C)C)C)NC(=O)OCC1=CC=CC=C1)=O | C30H41NO7
